US03947466
In the manner given in Example 22, 2-[3,5-bis(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone in ethanol is heated with hydrazine hydrate to give 1-(aminomethyl)6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 2-[3,5-bis(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | C1(C=2C(C(N1CC1=NN=C(N1C1=C(C(=O)C3=CC=CC=C3)C=CC=C1)CN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C33H21N5O5
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 1-(aminomethyl)6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=CC=C1 | C17H15N5
